US04497647
Preparation of 1-(1H-1,2,4-triazol-1-yl)-2-(2,4-dichlorophenoxymethyl)-3,3-dimethylbutene
With stirring, 100 ml of dichloromethane and 10 ml of thionyl chloride are cooled to -30° C. and then 17.5 g (0.05 mole) of 1-(1H-1,3,4-triazolyl)-2-(2,4-dichlorophenoxymethyl)-3,3-dimethylbutanol are added in portions. The reaction mixture is stirred for 2 hours and then a solution of 15 ml of pyridine in 30 ml of dichloromethane is added dropwise and the mixture is stirred for about 12 hours at room temperature. The clear solution is concentrated in vacuo and, after addition of ice, the residue is made alkaline with sodium carbonate and extracted with diethyl ether. The combined extracts are dried over sodium sulfate, filtered and concentrated. The yellowish oily residue is purified by column chromatography over silica gel with ethyl acetate as eluant. Yield: 75% of theory.

reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(1H-1,3,4-triazolyl)-2-(2,4-dichlorophenoxymethyl)-3,3-dimethylbutanol | 0.05 mole, 17.5 g | N1(C=NN=C1)C(C(C(C)(C)C)COC1=C(C=C(C=C1)Cl)Cl)O | C15H19Cl2N3O2
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(1H-1,2,4-triazol-1-yl)-2-(2,4-dichlorophenoxymethyl)-3,3-dimethylbutene | Yield: 75% | N1(N=CN=C1)C=C(C(C)(C)C)COC1=C(C=C(C=C1)Cl)Cl | C15H17Cl2N3O
